US07572809B2
c) Preparation of 3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one
2-Cyanomethyl-benzoic acid (1.61 g, 0.01 mol), 3-amino-5-methylpyrazol (1 g, 0.01 mol) and acetic acid (15 ml) were sealed in a bottle. The mixture was heated at 130° C. for 20 minutes under microwave irradiation. The mixture was concentrated, and the residue was dissolved in 5 ml methanol (MeOH). The resulting solution was added dropwise to 200 ml water. After stirred for 1 hour, the solid was collected, and dried to give product (1.8 g, 75% yield). LC-MS: 241 (MH+)

reactant | 2-Cyanomethyl-benzoic acid | 0.01 mol, 1.61 g | C(#N)CC1=C(C(=O)O)C=CC=C1 | C9H7NO2
reactant | 3-amino-5-methylpyrazol | 0.01 mol, 1 g | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | 1.8 g, 75% yield | CC1=CC(=NN1)NC=1NC(C2=CC=CC=C2C1)=O | C13H12N4O
